US07452909B2
3-[2-Methyl-1-(3-methyl-pyridin-2-ylmethyl)-1H-imidazol-4-ylethynyl]-benzonitrile
The title compound, MS: m/e=313.2 (M+H30), was prepared in accordance with the general method of example 1 from 3-(2-methyl-1H-imidazol-4-ylethynyl)-benzonitrile and 2-chloromethyl-3-methyl-pyridine hydrochloride.

reactant | 3-(2-methyl-1H-imidazol-4-ylethynyl)-benzonitrile | CC=1NC=C(N1)C#CC=1C=C(C#N)C=CC1 | C13H9N3
reactant | 2-chloromethyl-3-methyl-pyridine hydrochloride | Cl.ClCC1=NC=CC=C1C
product | 3-[2-Methyl-1-(3-methyl-pyridin-2-ylmethyl)-1H-imidazol-4-ylethynyl]-benzonitrile | CC=1N(C=C(N1)C#CC=1C=C(C#N)C=CC1)CC1=NC=CC=C1C | C20H16N4
